US04398033
7.8 Parts of 4-chloro-4-chloromethyloxetan-2-one are dissolved in 150 parts of methylenechloride containing 4.2 parts of anhydrous sodium bicarbonate and the solution is cooled to 0° C. 4.7 Parts of aniline are then added over 30 minutes and the reaction mixture is finally stirred for 48 hours at room temperature. The solids are then filtered off and the filtrate evaporated. The residue is crystallised twice from chloroform to give γ-chloroacetoacetanilide, m.p. 142°-143° C.

reactant | 4-chloro-4-chloromethyloxetan-2-one | ClC1(CC(O1)=O)CCl | C4H4Cl2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | γ-chloroacetoacetanilide | ClCC(CC(=O)NC1=CC=CC=C1)=O | C10H10ClNO2
